US05686424
Using the procedure described previously, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (65 mg, 0.17 mmol), 4-N,N-dimethylaminopyridine (12.5 mg, 0.10 mmol, 0.6 eq), 1,3-dicyclohexylcarbodiimide (64 mg, 0.31 mmol, 1.8 eq) in dichloromethane (5.0 mL) was treated with trans cinnamyl alcohol (29 uL, 0.22 mmol, 1.3 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 32 mg (38%) of L-isoleucine, N-[1-(2-(3-phenyl-2-propen-1-oxy)-2 -oxoethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.17 mmol, 65 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.31 mmol, 64 mg, 1.8 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans cinnamyl alcohol | 0.22 mmol, 29 uL, 1.3 eq | C(\C=C\C1=CC=CC=C1)O | C9H10O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-(3-phenyl-2-propen-1-oxy)-2 -oxoethyl)-L-prolyl] benzylamide | 32 mg, 38% | C1(=CC=CC=C1)C=CCOC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C29H37N3O4
